US06337330B1
(4aR, 12aR)-4a-(3-benzyloxyphenyl)-1,2,3,4,4a,5,12,12a-octahydroquinolino[2, 3-g]isoquinoline 5
(4aR, 12aR)-4a-(3-benzyloxyphenyl)-2-vinyloxycarbonyl-1,2,3,4,4a,5,12,12a-octahydroquinolino[2, 3-g]isoquinoline (181 mg, 0.369 mmol) was dissolved in a 10% hydrogen chloride methanol solution (6 ml), and the resultant solution was heated under reflux for 1 hour. After the solution was cooled to 0°C., an aqueous saturated sodiumbicarbonate solution (30 ml) and water (150 ml) were added to the solution, followed by extraction with chloroform (200 ml, 2 times). The organic layers were dried, and then concentrated to obtain the target compound (155 mg). The thus-obtained compound was supplied to next reaction without purification.

reactant | (4aR, 12aR)-4a-(3-benzyloxyphenyl)-2-vinyloxycarbonyl-1,2,3,4,4a,5,12,12a-octahydroquinolino[2, 3-g]isoquinoline | 0.369 mmol, 181 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)[C@]12CCN(C[C@@H]2CC2=C(C1)N=C1C=CC=CC1=C2)C(=O)OC=C | C32H30N2O3
reactant | sodiumbicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | water | 150 ml | O | H2O
solvent | hydrogen chloride methanol | 6 ml | CO.Cl
product | (4aR, 12aR)-4a-(3-benzyloxyphenyl)-1,2,3,4,4a,5,12,12a-octahydroquinolino[2, 3-g]isoquinoline | 155 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)[C@]12CCNC[C@@H]2CC2=C(C1)N=C1C=CC=CC1=C2 | C29H28N2O
